US06437146B1
To a mixture of 28% ammonia solution (0.7 ml) and MeOH (1.0 ml) was added a solution of crude 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzenesulfonyl chloride (253 mg, 0.52 mmol) in tetrahydrofuran (3 ml) at 5° C. After stirring at room temperature for 30 min, the reaction mixture was diluted with EtOAc, washed with 1N hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 2:1 elution) to give 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzenesulfonamide (41.3 mg, 17%).

reactant | ammonia | 0.7 ml | N | H3N
reactant | MeOH | 1.0 ml | CO | CH4O
reactant | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}-benzenesulfonyl chloride | 0.52 mmol, 253 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)S(=O)(=O)Cl | C28H24ClNO3S
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzenesulfonamide | 41.3 mg, 17% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)S(=O)(=O)N | C28H26N2O3S
